US09162986B2
Proceeding as in Reference 19, but substituting tert-butyl [3-bromo-4-(2-methoxyethoxymethoxy)-benzyl]carbamate (2.3 g, 5.9 mmol) and 2-(2-methoxyethoxymethoxy)-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde (60 mL, 0.1 M in toluene), gave tert-butyl [3′-formyl-6,2′-bis(2-methoxyethoxymethoxy)biphenyl-3-ylmethyl]carbamate (2.96 g).

reactant | tert-butyl [3-bromo-4-(2-methoxyethoxymethoxy)-benzyl]carbamate | 5.9 mmol, 2.3 g | BrC=1C=C(CNC(OC(C)(C)C)=O)C=CC1OCOCCOC | C16H24BrNO5
reactant | 2-(2-methoxyethoxymethoxy)-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 0.1 M, 60 mL | COCCOCOC1=C(C=O)C=CC=C1B1OC(C(O1)(C)C)(C)C | C17H25BO6
product | tert-butyl [3′-formyl-6,2′-bis(2-methoxyethoxymethoxy)biphenyl-3-ylmethyl]carbamate | 2.96 g | C(=O)C=1C(=C(C=CC1)C1=CC(=CC=C1OCOCCOC)CNC(OC(C)(C)C)=O)OCOCCOC | C27H37NO9
